US07452892B2
D. Preparation of 1-(6-(4-chlorophenyl)-5-phenylpyrimidin-4-yl)hydrazine
To a stirred solution of 4-chloro-6-(4-chlorophenyl)-5-phenylpyrimidine (301 mg, 1.0 mmol) in THF (5 mL) at room temperature under argon was added H2NNH2 (160 mg, 5.0 mmol). The reaction mixture was heated at 60° C. under argon for 2 h. Analysis by HPLC/MS indicated that the reaction was complete. The solvent was evaporated and the residue was coevaporated with toluene (2×5 mL) and THF (5 mL), then dried under vacuum. The crude title compound was used directly in the next step. HPLC/MS: retention time=1.89 min, [M+H]30 =297.

reactant | 4-chloro-6-(4-chlorophenyl)-5-phenylpyrimidine | 1.0 mmol, 301 mg | ClC1=NC=NC(=C1C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C16H10Cl2N2
reactant | H2NNH2 | 5.0 mmol, 160 mg | NN | H4N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(6-(4-chlorophenyl)-5-phenylpyrimidin-4-yl)hydrazine | ClC1=CC=C(C=C1)C1=C(C(=NC=N1)NN)C1=CC=CC=C1 | C16H13ClN4
